### ISSUE TITLE
Prove that `toPoly` preserves ring operations for `CPolynomial R`

### ISSUE THREAD

**Issue by dhsorens** [Verified-zkEVM/CompPoly#42]
Prove that the `toPoly` function preserves ring operations. These proofs are prerequisites for constructing the ring equivalence between `CPolynomialC R` and `Polynomial R`.

## Missing Proofs

The following lemmas need to be proven (lines 226-240):

- `toPoly_mul`: `(p * q).toPoly = p.toPoly * q.toPoly` (line 227-228)
- `toPoly_add_trimmed`: `(p + q).toPoly = p.toPoly + q.toPoly` (line 231-232)
- `toPoly_one`: `(1 : CPolynomial R).toPoly = 1` (line 235-236) (good first issue)
- `toPoly_zero`: `(0 : CPolynomial R).toPoly = 0` (line 239-240) (good first issue)

## Context

These lemmas are in the `RingEquiv` section starting at line 210. They establish that `toPoly` is a ring homomorphism, which is required to construct the ring equivalence `CPolynomialC R ≃+* Polynomial R`.

## Related Code

```lean
-- TODO: Prove that `toPoly` preserves multiplication
lemma toPoly_mul [CommSemiring R] [LawfulBEq R] (p q : CPolynomial R) :
    (p * q).toPoly = p.toPoly * q.toPoly := by sorry

-- TODO: Prove that `toPoly` preserves addition for trimmed polynomials
lemma toPoly_add_trimmed [CommSemiring R] [LawfulBEq R] (p q : CPolynomial R) :
    (p + q).toPoly = p.toPoly + q.toPoly := by sorry

-- TODO: Prove that `toPoly` preserves the multiplicative identity
lemma toPoly_one [CommSemiring R] [LawfulBEq R] :
    (1 : CPolynomial R).toPoly = 1 := by sorry

-- TODO: Prove that `toPoly` preserves the additive identity
lemma toPoly_zero [CommSemiring R] [LawfulBEq R] :
    (0 : CPolynomial R).toPoly = 0 := by sorry
```

## Prerequisites

Before these proofs can be completed, the following must be established:
1. `CPolynomialC` must have a `Semiring`/`CommSemiring` instance (see issues for `Canonical.lean`)
2. The `Semiring` instance for `CPolynomial R` must be complete (see issues for `Basic.lean`)

## Related Theorems

- `toPoly_add` (line 147): Already proven for `add_raw`
- `toPoly_trim` (line 152): Already proven that trimming doesn't change `toPoly`
- `toPoly_toImpl` (line 132): Already proven that `toImpl` is a right-inverse of `toPoly`
- `toImpl_toPoly_of_canonical` (line 183): Already proven that `toImpl` is a left-inverse of `toPoly` on canonical polynomials

## Notes

- `toPoly` is defined as `p.eval₂ Polynomial.C Polynomial.X` (line 51-52)
- Some proofs (like `toPoly_one` and `toPoly_zero`) are good candidates for first-time contributors
- The `toPoly_mul` proof will likely require understanding how polynomial multiplication works in both representations
- The `toPoly_add_trimmed` proof may use `toPoly_add` and `toPoly_trim` as building blocks
- Once these are proven, the ring equivalence can be constructed (see commented code at lines 242-251)
- This is part of Phase 1 of the roadmap for univariate polynomial theory
